US03988454
E. 2-(4-Bromophenethyl)-phenethylamine
Lithium aluminum hydride, 0.61 g. (0.016 mole), is weighed under nitrogen, transferred to a dry, nitrogen-flushed reaction flask and suspended in 50 ml. of absolute ether. The mixture is stirred at reflux for 30 minutes, then cooled to room temperature and a solution of 2.4 g. (0.008 mole) of 2-(4-bromophenethyl)-phenylacetonitrile in 30 ml. of absolute ether is added dropwise. After 16 hours at reflux, the cooled mixture is hydrolyzed by the successive dropwise addition of 0.7 ml. of water, 0.7 ml. of 20% aqueous sodium hydroxide, and 1.5 ml. of water. The ethereal layer is separated and stirred with 18 ml. of 3N hydrochloric acid. The hydrochloride salt of the product separates, m.p. 148°-153° C. (cloudy melt). Repeated recrystallizations from absolute ethanol-ether and from water yield purified material, m.p. 148°-150° C. (cloudy melt). The hydrochloride is converted to the base by rendering an aqueous solution strongly alkaline. The oily base is extracted into benzene. Evaporation of the washed and dried benzene extract under reduced pressure leaves the product as the residual oil. The base may be converted to the hydrogen maleate salt by treating a solution in methanol with a slight excess of maleic acid. Dilution with absolute ether precipitates the hydrogen maleate in white crystals, m.p. 158°-160° C.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-bromophenethyl)-phenylacetonitrile | 0.008 mole | BrC1=CC=C(CCC2=C(C=CC=C2)CC#N)C=C1 | C16H14BrN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(4-Bromophenethyl)-phenethylamine | BrC1=CC=C(CCC2=C(CCN)C=CC=C2)C=C1 | C16H18BrN
